US05041455
B. 3-(4-octylthio-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide
Methyl iodide (0.5 ml, 7.5 mmol) was added to a solution of 3-(4-octylthio-1,2,5-thiadiazol-3-yl)pyridine (3 mmol) and the reaction mixture was stirred at room temperature for 48 h and evaporated.

reactant | Methyl iodide | 7.5 mmol, 0.5 ml | CI | CH3I
reactant | 3-(4-octylthio-1,2,5-thiadiazol-3-yl)pyridine | 3 mmol | C(CCCCCCC)SC=1C(=NSN1)C=1C=NC=CC1 | C15H21N3S2
product | 3-(4-octylthio-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide | [I-].C(CCCCCCC)SC=1C(=NSN1)C=1C=[N+](C=CC1)C | InChI=1S/C16H24N3S2.HI/c1-3-4-5-6-7-8-12-20-16-15(17-21-18-16)14-10-9-11-19(2)13-14;/h9-11,13H,3-8,12H2,1-2H3;1H/q+1;/p-1
